US07781428B2
N-(-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazol-7-yl)acetamide
The title compound was prepared from N-(6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)acetamide; Preparation 36 and 2-chloro-4-hydrazinylbenzonitrile hydrochloride (Preparation 1) according to Method B (tan solid, 159 mg, 0.37 mmol, 59% yield). The title compound was largely present as (O)—N-((3RS,3aSR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazol-7-yl)acetamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.08-1.59 (m, 7H), 1.65-1.87 (m, 2H), 1.98-2.05 (m, 1H), 2.06 (s, 3H), 2.13-2.24 (m, 1H), 2.78-2.97 (m, 2H), 3.51 (ddd, J=13.56, 9.26, 4.83 Hz, 1H), 4.86 (dd, J=9.26, 5.50 Hz, 1H), 7.11 (dd, J=9.26, 1.48 Hz, 1H), 7.32 (d, J=1.88 Hz, 1H), 7.46 (dd, J=8.59, 1.88 Hz, 1H), 7.60 (s, 1H), 7.64 (d, J=8.86 Hz, 1H), 7.93 (d, J=8.59 Hz, 1H), 10.11 (s, 1H). ES-MS m/z 433 (M+H).

reactant | N-(6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)acetamide | C1(CCCC1)C=C1C(C=2C=CC(=CC2CC1)NC(C)=O)=O | C18H21NO2
reactant | 2-chloro-4-hydrazinylbenzonitrile hydrochloride | Cl.ClC1=C(C#N)C=CC(=C1)NN
product | N-(-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazol-7-yl)acetamide | 59% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)NC(C)=O | C25H25ClN4O
